US07781373B2
Preparation of N2,N2-diethyl-6-methyl-2,5-pyridinediamine dihydrochloride
Into a 500 mL PARR reactor bottle was placed 6.3 gram (30 mmol) of 6-diethylamino-3-nitro-2-picoline and 75 mL of reagent grade methanol. The mixture was stirred at room temperature for a few minutes to fully dissolve the diethylaminonitropicoline, then 1 gram of 5% Palladium on carbon was added. The resulting mixture was placed upon the PARR hydrogenation shaker and hydrogenated at 50 psi H2 atmosphere at room temperature. After 3 hours the reaction was removed from the hydrogenation shaker and evaluated by thin layer chromatography to show that all starting material had been consumed and one product had formed. The product containing methanol solution was filtered through a pad of Supercel Celite slurried in methanol on a medium porosity sintered glass funnel to remove the palladium on carbon catalyst. The Celite pad was washed with 25 mL of methanol. The resulting nearly colorless filtrate was treated with 7 mL of concentrated hydrochloric acid (0.84 moles hydrogen chloride) and the lightly colored solution was transferred to a 500 mL flask. The product mixture was concentrated under reduced pressure at 50° C. to afford a wet amorphous semi-solid product mixture. This was treated with 50 mL of acetonitrile and stirred rapidly for 45 minutes then filtered on a Buchner funnel. The resulting off-white solid was washed with 25 mL of acetonitrile, dried by sucking air through for 30 minutes, then dried under high vacuum over night. The off-white product of N2,N2-diethyl-6-methyl-2,5-pyridinediamine dihydrochloride was 7.2 grams (28.5 mmol, 95.1% yield). Mass Spectrum analysis indicated an Electron Impact EI+ m/e of 179.

reactant | 6-diethylamino-3-nitro-2-picoline | 30 mmol, 6.3 gram | C(C)N(C1=CC=C(C(=N1)C)[N+](=O)[O-])CC | C10H15N3O2
reactant | methanol | CO | CH4O
reactant | diethylaminonitropicoline | C(C)N(CC)C1=C(C(=NC=C1)C)[N+](=O)[O-] | C10H15N3O2
reactant | hydrochloric acid | 0.84 moles, 7 mL | Cl | ClH
catalyst | Palladium on carbon | 1 gram | [Pd] | Pd
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N2,N2-diethyl-6-methyl-2,5-pyridinediamine dihydrochloride | 95.1% yield | Cl.Cl.C(C)N(C1=NC(=C(C=C1)N)C)CC | InChI=1S/C10H17N3.2ClH/c1-4-13(5-2)10-7-6-9(11)8(3)12-10;;/h6-7H,4-5,11H2,1-3H3;2*1H
